US05684032
a) 3-Bromoindole-2-carboxylic acid
A solution of ethyl 3-bromoindole-2-carboxylate (54.40 g, 203 mmol) in EtOH (600 ml) and water (50 ml) with NaOH (20.20 g, 505 mmol) was refluxed for 1 h. The mixture was cooled and the sodium salt of the title compound was removed by filtration. This was acidified (aqueous 3N HCl) and extracted with ethyl acetate. The organic extract was washed with water then brine, dried (sodium sulfate) and concentrated. Crystallization from ethyl acetate afforded the product (47.1 g, 88%). mp 201°-203° C.

reactant | ethyl 3-bromoindole-2-carboxylate | 203 mmol, 54.40 g | BrC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H10BrNO2
reactant | NaOH | 505 mmol, 20.20 g | [OH-].[Na+]
solvent | EtOH | 600 ml | CCO | C2H6O
solvent | water | 50 ml | O | H2O
product | 3-Bromoindole-2-carboxylic acid | 47.1 g, 88% | BrC1=C(NC2=CC=CC=C12)C(=O)O | C9H6BrNO2
